US06716843B2
Step A: (S)-N2-(Benzyloxycarbonyl)-N5-{(imino)-(methylsulphonylamino)-methyl}-ornithine
To 10 mmol of (S)-N2-(benzyloxycarbonyl)-arginine suspended in a mixture of acetone/water 80/20 there is added, at 0° C., a sufficient amount of 4N sodium hydroxide solution to bring the pH of the reaction mixture to between 11 and 11.5. After stirring for 2 hours, there is then added a solution of methanesulphonyl chloride in acetone and then, after stirring for a further 3 hours, the mixture is neutralised using 1N hydrochloric acid solution; the acetone is then evaporated off, and the residue obtained is extracted with ether and then washed, dried, filtered and evaporated. The pale yellow oil thereby obtained is purified by chromatography over silica (eluant: dichloromethane/methanol 7/3) to yield the expected product in the form of a whitish meringue.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | 10 mmol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetone water | CC(=O)C.O
solvent | acetone | CC(=O)C | C3H6O
product | (S)-N2-(Benzyloxycarbonyl)-N5-{(imino)-(methylsulphonylamino)-methyl}-ornithine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(NS(=O)(=O)C)=N)C(=O)O | C15H22N4O6S
